US07183287B2
Preparation of 3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[(2S)-2,3-dihydroxypropyl]-4-methylbenzamide
The title compound was prepared using a procedure similar to that used in Step 4 of the synthesis of 3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[1-(aminocarbonyl)methyl]-4-methylbenzamide by substituting (S)-(−)-3-amino-1,2-propanediol for glycineamide HCl. 1H NMR (CD3OD/400 MHz) δ8.32 (s, 1H), 7.92 (m, 1H), 7.77 (s, 1H), 7.61 (q, 1H, J=8.4 Hz), 7.53 (d, 1H, J=8.0 Hz), 7.02 (m, 2H), 5.60 (m, 2H), 3.81 (m, 1H), 3.55 (m, 3H), 3.39 (m, 1H), 2.20 (s, 3H). ESHRMS m/z 480.1131 (M+H calculated for C22H21ClF2N3O5 requires 480.1132).

reactant | 3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[1-(aminocarbonyl)methyl]-4-methylbenzamide | ClC1=C(N=CN(C1=O)C=1C=C(C(=O)NCC(=O)N)C=CC1C)OCC1=C(C=C(C=C1)F)F | C21H17ClF2N4O4
reactant | glycineamide HCl | Cl.NCC(=O)N
product | 3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[(2S)-2,3-dihydroxypropyl]-4-methylbenzamide | ClC1=C(N=CN(C1=O)C=1C=C(C(=O)NC[C@@H](CO)O)C=CC1C)OCC1=C(C=C(C=C1)F)F | C22H20ClF2N3O5
